US08957070B2
3-Methyl-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
To a mixture of 3-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.70 g), 2-(tritylthio)ethylamine hydrochloride (0.82 g), 1H-1,2,3-benzotriazol-1-ol (0.34 g), triethylamine (0.35 mL) and N,N-dimethylformamide (15 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.48 g) at 0° C., and the mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the obtained crystals were filtrated, washed with water and dried. The obtained crystals were subjected to silica gel column chromatography and the title compound (1.36 g, quantitative) was obtained as colorless crystals from a fraction eluted with ethyl acetate. melting point>214° C. (decomposition).

reactant | 3-methyl-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.70 g | CC1=C(NC2=C(C=CC=C12)NS(=O)(=O)C=1SC=CC1)C(=O)O | C14H12N2O4S2
reactant | 2-(tritylthio)ethylamine hydrochloride | 0.82 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.34 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.48 g | Cl.CN(CCCN=C=NCC)C
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.35 mL | C(C)N(CC)CC | C6H15N
product | 3-Methyl-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 1.36 g | CC1=C(NC2=C(C=CC=C12)NS(=O)(=O)C=1SC=CC1)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H31N3O3S3
